US07678799B2
To a slurry of ziprasidone base Form B (10 g) in monochlorobenzene (100 ml) was added aqueous HCl (37%) (10 ml) at room temperature and the stirring was continued at room temperature over night. A sticky solid was formed, to which methanol (50 ml) was added, followed by stirring for an additional 4 hours. The solid was filtered and washed with methanol. The wet product was crystalline ziprasidone HCl as confirmed by XRD. After drying at 50° C. for about 16 hours, crystalline ziprasidone HCl Form A was obtained (10.37 g) as confirmed by XRD (The water content was 4.17% by K.F.).

reactant | ziprasidone | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5 | C21H21ClN4OS
reactant | HCl | 10 ml | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
solvent | monochlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | ziprasidone HCl | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5.Cl | InChI=1S/C21H21ClN4OS.ClH/c22-17-13-18-15(12-20(27)23-18)11-14(17)5-6-25-7-9-26(10-8-25)21-16-3-1-2-4-19(16)28-24-21;/h1-4,11,13H,5-10,12H2,(H,23,27);1H
